US07279478B2
(2S)-2-hydroxy-4-methylpentanoic acid (46.4 g, 351 mmol) and 4-bromobenzaldehyde (50 g, 270.2 mmol) were dissolved in 400 ml toluene and pyridinium 4-methylbenzenesulfonate (340 mg, 1.35 mmol) was added. The mixture was refluxed in a Dean-Stark for 24 hours. The mixture was cooled, poured into 500 ml NaHCO3(sat) and 500 ether, the phases were separated and the organic phase washed with 500 ml NaHCO3(sat.) and brine. The organic phase was dried with Na2SO4 and the solvent striped. 400 ml Hexane was added to the resulting solid and the mixture was stirred 1 hour in salt ice bath. The solution was filtered thru Celite, and the solvent removed. (5S)-2-(4-bromophenyl)-5-isobutyl-1,3-dioxolan-4-one (3:2 mixture of cis/trans) was obtained.

reactant | (2S)-2-hydroxy-4-methylpentanoic acid | 351 mmol, 46.4 g | O[C@H](C(=O)O)CC(C)C | C6H12O3
reactant | 4-bromobenzaldehyde | 270.2 mmol, 50 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | pyridinium 4-methylbenzenesulfonate | 1.35 mmol, 340 mg | CC1=CC=C(C=C1)S(=O)(=O)[O-].[NH+]1=CC=CC=C1
reactant | ether | CCOCC | C4H10O
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | (5S)-2-(4-bromophenyl)-5-isobutyl-1,3-dioxolan-4-one | BrC1=CC=C(C=C1)C1O[C@H](C(O1)=O)CC(C)C | C13H15BrO3
